US04088652
A solution of 1-(p-chlorophenyl)-3-azabicyclo[3.1.0]hexane in formic acid is added at 0°-5° C. to aceticformic anhydride prepared from 2 volumes of acetic anhydride and one volume of formic acid. The mixture is warmed to 40°-50° C. and poured onto ice to give 3-formyl-1-(p-chlorophenyl)-3-azabicyclo[3.1.0]hexane as the product.

reactant | 1-(p-chlorophenyl)-3-azabicyclo[3.1.0]hexane | ClC1=CC=C(C=C1)C12CNCC2C1 | C11H12ClN
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
solvent | formic acid | C(=O)O | CH2O2
product | 3-formyl-1-(p-chlorophenyl)-3-azabicyclo[3.1.0]hexane | C(=O)N1CC2(CC2C1)C1=CC=C(C=C1)Cl | C12H12ClNO
